US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1249)
Hydrogen chloride was passed through a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)piperidine hydrochloride (4.15 g) in ethanol (50 ml) with stirring under ice-cooling for one hour and the resulting mixture was stirred at room temperature overnight under a tightly sealed condition. After concentration of the reaction mixture under reduced pressure, ethyl acetate and an aqueous sodium hydrogencarbonate solution were added to the residue. The organic layer was collected, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, the residue was purified by silica gel chromatography using hexane and ethyl acetate (1:3) as the eluent, and the crude fraction thus obtained was further purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N aqueous hydrochloric acid solution, 40:60, v/v). The fraction obtained was neutralized with an aqueous sodium hydrogencarbonate solution. The resulting free base was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to afford the free base of the title compound (1.93 g, yield: 54%) as a pale yellow oil.

reactant | Hydrogen chloride | Cl | ClH
reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)piperidine hydrochloride | 4.15 g | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=CN=NN1CCCC(=O)OCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride | 1.93 g, yield: 54% | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=CN=NN1CCCC(=O)OCC)=O | InChI=1S/C25H31FN4O3S.ClH/c1-2-33-23(31)8-5-12-30-19(15-27-28-30)14-18-16-29(13-11-22(18)34)24(25(32)17-9-10-17)20-6-3-4-7-21(20)26;/h3-4,6-7,14-15,17,22,24,34H,2,5,8-13,16H2,1H3;1H/b18-14+;
